US08648038B2
To a solution of 250 mg (0.91 mmol) of dimethyl malonate, malonate, 314 mg (2.72 mmol) of N-ethylmorpholine, 153 mg (1.0 mmol) of HOBt hydrate and 155 mg (1.0 mmol) of EDAC in 7 ml of DMF was added a solution of 202 mg (0.91 mmol) of 2-(3-tert-butylphenoxy)propionic acid in 3 ml of DMF. After 18 h at room temperature, the reaction mixture was concentrated completely and separated by means of preparative HPLC (Merck Hibar Purospher Star RP-18e 10 μm 25×250 mm; A: H2O+0.05% TFA; B: ACN+0.05% TFA; flow rate: 50 ml/min; in 15 minutes 10% B→90% B). The product fractions were freeze-dried to give 323 mg (74%) of dimethyl 2-(1-{4-[2-(3-tert-butylphenoxy)propionylamino]phenyl}but-2-ynyl)malonate.

reactant | dimethyl malonate | 0.91 mmol, 250 mg | C(CC(=O)OC)(=O)OC | C5H8O4
reactant | malonate | C(CC(=O)[O-])(=O)[O-]
reactant | N-ethylmorpholine | 2.72 mmol, 314 mg | C(C)N1CCOCC1 | C6H13NO
reactant | HOBt hydrate | 1.0 mmol, 153 mg | C1=CC=C2C(=C1)N=NN2O.O
reactant | EDAC | 1.0 mmol, 155 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | 2-(3-tert-butylphenoxy)propionic acid | 0.91 mmol, 202 mg | C(C)(C)(C)C=1C=C(OC(C(=O)O)C)C=CC1 | C13H18O3
solvent | DMF | 7 ml | CN(C)C=O | C3H7NO
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | dimethyl 2-(1-{4-[2-(3-tert-butylphenoxy)propionylamino]phenyl}but-2-ynyl)malonate | 323 mg, 74% | C(C)(C)(C)C=1C=C(OC(C(=O)NC2=CC=C(C=C2)C(C#CC)C(C(=O)OC)C(=O)OC)C)C=CC1 | C28H33NO6
